US05563144
4,4-Dimethyl-2-(3-chloropropyl)-3H-1,2,4-benzothiazasiline 1,1-dioxide may be obtained in a manner similar to that described in Example 4 for the preparation of 3-(3-chloropropyl)-1,1-dimethyl-4-oxo-1,2,3,4-tetrahydro-3,1-benzazasiline, but using 3.2 g of 4,4-dimethyl-3H-1,2,4-benzothiazasiline 1,1-dioxide, 10.5 cm3 of n-butyllithium, 5.3 g of 1-chloro-3-bromopropane and 50 cm3 of tetrahydrofuran. After purification by flash chromatography on a silica column under a nitrogen stream at moderate pressure (0.5-1.5 bar) with a dichloromethane-cyclohexane mixture (50--50 by volume) as eluent, 1.95 g of 4,4-dimethyl-2-(3-chloropropyl) 3H-1,2,4-benzothiazasiline 1,1-dioxide are obtained.

reactant | 3-(3-chloropropyl)-1,1-dimethyl-4-oxo-1,2,3,4-tetrahydro-3,1-benzazasiline | ClCCCN1C[Si](C2=C(C1=O)C=CC=C2)(C)C | C13H18ClNOSi
reactant | 4,4-dimethyl-3H-1,2,4-benzothiazasiline 1,1-dioxide | 3.2 g | C[Si]1(CNS(C2=C1C=CC=C2)(=O)=O)C | C9H13NO2SSi
reactant | n-butyllithium | 10.5 cm3 | C(CCC)[Li]
reactant | 1-chloro-3-bromopropane | 5.3 g | ClCCCBr | C3H6BrCl
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | 4,4-dimethyl-2-(3-chloropropyl) 3H-1,2,4-benzothiazasiline 1,1-dioxide | 1.95 g | C[Si]1(CN(S(C2=C1C=CC=C2)(=O)=O)CCCCl)C | C12H18ClNO2SSi
